US07456205B2
2,4-dihydroxyl benzaldehyde and tert-butyl malonic acid are reacted to obtain 7-hydroxyl-3-coumarin formic acid tert-butyl ester, which in turn is Mitsunobu condensed with 2-(5-methyl-2-phenyl-4-oxazole)ethanol to obtain the compound 17. The solvents used in Mitsunobu reaction are the anhydrous inert solvents, such as anhydrous tetrahydrofuran, anhydrous dioxane, anhydrous benzene, anhydrous ether, chloroform, dichloromethane or the like, and the anhydrous tetrahydrofuran is preferable. The reaction temperature is between −10-100° C., and the room temperature is preferable. The reaction time is between 0.1-72 hours, and 24 hours are preferable.

reactant | 2,4-dihydroxyl benzaldehyde | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | tert-butyl malonic acid | C(C)(C)(C)C(C(=O)O)C(=O)O | C7H12O4
product | 7-hydroxyl-3-coumarin formic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1C(OC2=CC(=CC=C2C1)O)=O | C14H14O5
